*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* supply voltage
Vcc vcc 0 10.0

* input voltage source
Vin 1 0 0.0 ac 1.0 sin(0 .1 100k)

Rs 1 2 1k

* input capacitor (DC block)
Cb 2 base 1uF

Rf coll base 50k

Q1 coll base emit P2model

Rc vcc coll 300

Re emit 0 100

Ce emit 0 10uF

.model P2model NPN(Bf=200, CJE=12pF, CJC=2pF)

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"
print Vcc
print @Q1[ic]
print @Rf[i]

echo  "op_TAB"
print all
echo  "op_END"


echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 10e-3

hardcopy trans.ps v(coll) v(base)
echo trans_FIG

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 10 10 100MEG

hardcopy acm.ps db(v(coll)) v(base)
echo acm_FIG
hardcopy acp.ps v(base)
echo acp_FIG

*plot db(v(coll))
*plot vp(coll)

echo "********************************************"
echo  "Input impedance"
echo "********************************************"

hardcopy zim.ps abs(v(coll)/((v(1)-v(2))/1k))
echo zim_FIG

quit
.endc

.end